US04769472
3-(2-Hydroxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole
To a solution of 3-(2-methoxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole (4.2 g) in 30 ml of dichloromethane was added dropwise 24 ml of a stock solution of BBr3 in dichloromethane. The mixture warmed up spontaneously and a precipitate begain to deposit. After stirring at ambient temperature for 2 hours, the reaction mixture was quenched with 50 ml of 1H hydrochloric acid. Stirring was continued overnight whereupon the mixture became almost clear. The organic layer was diluted with ether, the phases were separated, and the aqueous layer was basified with concentrated NH3 and extracted three times with 200 ml total of ether. The combined organic solution was washed with water, dried (over anhydrous magnesium sulfate) and concentrated to a solid. Purification of the crude product was effected by passing it through a column of silica gel packed in dichloromethane, which afforded 3.48 g of crystals. They were further purified by recrystallization from ether/hexane, m.p. 112°-113° C.

reactant | 3-(2-methoxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole | 4.2 g | COC1=C(C=CC=C1)C=1C2=C(N(N1)C)C=CS2 | C13H12N2OS
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(2-Hydroxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole | 3.48 g | OC1=C(C=CC=C1)C=1C2=C(N(N1)C)C=CS2 | C12H10N2OS
